US07750002B2
To 4-(2,2,2-trifluoro-acetyl)-piperazine-1-carboxylic acid tert-butyl ester (6.06 g) in dry THF (60 mL) was added borane dimethyl sulfide complex (4.5 ml) and the reaction mixture was heated to reflux. After 2 h the reaction mixture was cooled to 0° C. and MeOH was carefully added, followed by water. The organics were extracted into ethyl acetate, dried (MgSO4) and the solvent removed in vacuo to yield 4-(2,2,2-trifluoro-ethyl)-piperazine-1-carboxylic acid tert-butyl ester (4.46 g). Treatment with HCl in DCM/MeOH yielded the desired compound, which was isolated as the hydrochloride salt.

reactant | 4-(2,2,2-trifluoro-acetyl)-piperazine-1-carboxylic acid tert-butyl ester | 6.06 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C(F)(F)F)=O | C11H17F3N2O3
reactant | MeOH | CO | CH4O
reactant | water | O | H2O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 4-(2,2,2-trifluoro-ethyl)-piperazine-1-carboxylic acid tert-butyl ester | 4.46 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC(F)(F)F | C11H19F3N2O2
